US08980911B2
Aluminium chloride (4.3 g, 32.2 mmol) was added to a solution of N-(1H-pyrrolo[2,3-c]pyridin-7-yl)cyclopropanecarboxamide (0.65 g, 3.2 mmol) in dichloromethane (100 mL) under Argon atmosphere. The mixture was stirred at room temperature under inert atmosphere for about 1 hour, followed by drop wise addition of 4-bromo-2,6-dichlorobenzoyl chloride (4.6 g, 15.9 mmol) in dichloromethane (20 mL). After complete addition the reaction mixture was stirred at room temperature for about 16 hours. Methanol (100 mL) was poured in the reaction mixture and stirred well. Solvent was evaporated under vacuum, water (250 mL) was added and extracted with ethyl acetate (3×200 mL). The organic layer was washed with aqueous sodium bicarbonate (10%) solution. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product was purified by silica gel (100-200 mesh) column chromatography using 2% methanol in dichloromethane as an eluant to afford N-[3-(4-bromo-2,6-dichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide (0.8 g, 54%).

reactant | Aluminium chloride | 32.2 mmol, 4.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-(1H-pyrrolo[2,3-c]pyridin-7-yl)cyclopropanecarboxamide | 3.2 mmol, 0.65 g | N1C=CC=2C1=C(N=CC2)NC(=O)C2CC2 | C11H11N3O
reactant | 4-bromo-2,6-dichlorobenzoyl chloride | 15.9 mmol, 4.6 g | BrC1=CC(=C(C(=O)Cl)C(=C1)Cl)Cl | C7H2BrCl3O
reactant | Methanol | 100 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-[3-(4-bromo-2,6-dichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide | 0.8 g, 54% | BrC1=CC(=C(C(=O)C2=CNC3=C(N=CC=C32)NC(=O)C3CC3)C(=C1)Cl)Cl | C18H12BrCl2N3O2
